US08809369B2
To a suspension of 60% sodium hydride (448 mg, 11.2 mmol) in N,N-dimethylformamide (3 mL) was added cyclopropanesulfonic acid amide (1.35 g, 11.2 mmol) at room temperature. The resulting mixture was stirred at 25° C. for 1 h to afford Solution A51. A solution of 4,4-dimethyl-2-[3-(4-methyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (564 mg, 1.5 mmol) and 1,1′-carbonyldiimidazole (519 mg, 3.2 mmol) in N,N-dimethylformamide (1.5 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B51. Solution B51 was added to Solution A51 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded cyclopropanesulfonic acid {4,4-dimethyl-2-[3-(4-methyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-6-carbonyl}-amide (140 mg, 10%) as a white solid: MS (ESI) M+1=483.3.

reactant | sodium hydride | 11.2 mmol, 448 mg | [H-].[Na+]
reactant | cyclopropanesulfonic acid amide | 11.2 mmol, 1.35 g | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | 4,4-dimethyl-2-[3-(4-methyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 1.5 mmol, 564 mg | CC1(CC(NC2=C(C=CC=C12)C(=O)O)C1=CC(=CC=C1)N1CCN(CC1)C)C | C23H29N3O2
reactant | 1,1′-carbonyldiimidazole | 3.2 mmol, 519 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | cyclopropanesulfonic acid {4,4-dimethyl-2-[3-(4-methyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-6-carbonyl}-amide | 140 mg, 10% | CC1(CC(NC2=CC=C(C=C12)C(=O)NS(=O)(=O)C1CC1)C1=CC(=CC=C1)N1CCN(CC1)C)C | C26H34N4O3S
